2199-02-01 11:32:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo women with diastolic CHF, AS/AR, COPD, admitted with respiratory
   distress.  Overnight got diuresed and has improved.   Voicing that she
   now longer wanted to be hospitalized.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2199-1-31**] 01:21 PM
 NON-INVASIVE VENTILATION - STOP [**2199-1-31**] 01:59 PM
 NON-INVASIVE VENTILATION - START [**2199-1-31**] 03:24 PM
 NON-INVASIVE VENTILATION - STOP [**2199-1-31**] 08:00 PM
   Allergies:
   Tetanus Antitoxin
   Hypotension;
   Penicillins
   Rash;
   Ethambutol
   optic neuritis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2199-1-31**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-2-1**] 08:34 AM
   Other medications:
   SSI
   hep s/q
   cipro
   nifedipine
   hydralizine
   lopressor
   asa
   tiatropium
   flovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, Edema
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2199-2-1**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 55 (50 - 71) bpm
   BP: 142/33(61) {84/23(60) - 198/67(89)} mmHg
   RR: 25 (18 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
                  Total In:
                                                                    350 mL
                                                                    360 mL
   PO:
                                                                    150 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    417 mL
   Urine:
                                                                    600 mL
                                                                    417 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                    -57 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 14 cmH2O
   RR (Spontaneous): 42
   PEEP: 5 cmH2O
   FiO2: 30%
   SpO2: 96%
   ABG: 7.42/53/55/32/7
   Ve: 9.5 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   281 K/uL
   73 mg/dL
   1.6 mg/dL
   32 mEq/L
   4.6 mEq/L
   19 mg/dL
   98 mEq/L
   137 mEq/L
   27.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2199-1-31**]  02:17 PM
                             [**2199-1-31**]  03:53 PM
                             [**2199-2-1**]  04:35 AM
   WBC
   8.0
   Hct
   27.1
   Plt
   281
   Cr
   1.6
   TropT
   <0.01
   TCO2
   36
   Glucose
   73
   Other labs: CK / CKMB / Troponin-T:20//<0.01, Lactic Acid:1.0 mmol/L,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN:  Labile, related to respiratory distress.  Keep
   close watch on this.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Improved respiratory
   status.  Most likely due to pulmonary edema with underlying COPD
   U/A positive yesterday -on cipro.
   COPD:  continue spiriva and flovent
   acute on chronic diastolic failure/AS/AR:  repeat echo.
   Palliative Care consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-1-31**] 01:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes